US04861785
A mixture of 2.77 parts of [(3-chlorophenoxy)methyl]oxirane, 4.92 parts of N-(3-methyl-2(3H)-benzothiazolylidene)-4-piperidinamine monohydrobromide, 2.12 parts of sodium carbonate, 60 parts of methanol and 68 parts of methylbenzene was stirred and refluxed overnight. The reaction mixture was cooled and the solvent was evaporated. The residue was purified by filtration over silica gel using a mixture of trichloromethane and methanol (99:1 by volume), as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the (Z)-2-butenedioate salt in 2-propanol and methanol. The salt was filtered off and dried, yielding 5.5 parts (55%) of α-[(3-chlorophenoxy)methyl]-4-[(3-methyl-2(3H)-benzothiazolyliden)amino]-1-piperidineethanol (Z)-2-butenedioate(1:2); mp. 157.6° C. (428).

reactant | [(3-chlorophenoxy)methyl]oxirane | ClC=1C=C(OCC2OC2)C=CC1 | C9H9ClO2
reactant | N-(3-methyl-2(3H)-benzothiazolylidene)-4-piperidinamine monohydrobromide | Br.CN1C(SC2=C1C=CC=C2)=NC2CCNCC2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | methanol | CO | CH4O
solvent | methylbenzene | CC1=CC=CC=C1 | C7H8
product | α-[(3-chlorophenoxy)methyl]-4-[(3-methyl-2(3H)-benzothiazolyliden)amino]-1-piperidineethanol (Z)-2-butenedioate | 55% | C(\C=C/C(=O)O)(=O)O.ClC=1C=C(OCC(CN2CCC(CC2)N=C2SC3=C(N2C)C=CC=C3)O)C=CC1 | InChI=1S/C22H26ClN3O2S.C4H4O4/c1-25-20-7-2-3-8-21(20)29-22(25)24-17-9-11-26(12-10-17)14-18(27)15-28-19-6-4-5-16(23)13-19;5-3(6)1-2-4(7)8/h2-8,13,17-18,27H,9-12,14-15H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1-
